US08604065B2
1d. 4-nitro-2-trifluoromethoxyphenol
3.0 g (7.5 mmol) of anh. bismuth nitrate was added to a solution of 891 mg (5.0 mmol) of 2-trifluoromethoxyphenol in 20 mL of tetrahydrofuran (redistilled) under argon atmosphere with stirring. The mixture was slowly heated to 50° C. and allowed to react at this temperature for 10 min. The reaction was stopped, cooled, filtered under reduced pressure and the filter cake was washed with 20 mL of tetrahydrofuran. The filtrate was concentrated, and 40 mL of water and 45 mL of ethyl acetate were added. The organic layer was isolated, and the water layer was extracted with 40 mL×2 of ethyl acetate. The organic layers were combined, successively washed with 110 mL of water and 110 mL of saturated saline, dried over anh. MgSO4, filtered and concentrated. The residue was purified by silica column chromatography (mobile phase: petroleum ether: ethyl acetate=15:1) to obtain 346 mg of a yellow oil. Yield 31.4%.

reactant | bismuth nitrate | 7.5 mmol, 3.0 g | [N+](=O)([O-])[O-].[Bi+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | 2-trifluoromethoxyphenol | 5.0 mmol, 891 mg | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-nitro-2-trifluoromethoxyphenol | 346 mg, Yield 31.4% | [N+](=O)([O-])C1=CC(=C(C=C1)O)OC(F)(F)F | C7H4F3NO4
